US04402960
5.61 g of 4,5-bis(4-methoxyphenyl)imidazole is suspended in 150 ml of absolute 1,2-dichloroethane and combined with 2.8 g of 2,3-dihydrofuran as well as 0.2 ml of tin tetrachloride. The mixture is heated under agitation for 12 hours to 70°, allowed to cool, and poured into 200 ml of cold sodium bicarbonate solution. The organic phase is separated, dried over sodium sulfate, and concentrated under vacuum. The residue is dissolved in dichloromethane and subjected to a hexane precipitation. The precipitate is subjected to column chromatography on 250 g of aluminum oxide, neutral, activity stage II. Elution with ethyl acetate/hexane 2:3 yields 5.39 g of 4,5-bis(4-methoxyphenyl)-1-(tetrahydrofuran-2-yl)imidazole, which is obtained in the form of a foam after removal of the solvent.

reactant | 4,5-bis(4-methoxyphenyl)imidazole | 5.61 g | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | 2,3-dihydrofuran | 2.8 g | O1CCC=C1 | C4H6O
reactant | tin tetrachloride | 0.2 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | 4,5-bis(4-methoxyphenyl)-1-(tetrahydrofuran-2-yl)imidazole | 5.39 g | COC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)OC)C1OCCC1 | C21H22N2O3
